US09303007B2
Sodium sulfite (10.31 g, 82 mmol) was added to a solution of (S)-tert-butyl 2-(4,5-diiodo-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (4.0 g, 8.2 mmol) in ethanol (75 mL) and water (75 mL). The suspension was heated with an oil bath at 100° C. for 4 hours and at 90° C. for 16 h. The reaction was diluted with ethyl acetate and water. The layers were separated and the aqueous layer was extracted several times with ethyl acetate. The combined organic phases were dried (brine, Na2SO4), filtered and concentrated in vacuo. The residue was purified by a flash chromatography (sample was dry loaded on silica gel and eluted with, 0 to 40% ethyl acetate/CH2Cl2) to afford (S)-tert-butyl 2-(5-iodo-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (2.17 g, 73.1%) as a white solid. LC-MS retention time 0.930 min; calcd. for C12H181 N3O2 363.04. found m/z 364.06 [M+H]+. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min and an analysis time of 4 min where Solvent A was 10% acetonitrile/90% water/0.1% TFA and Solvent B was 90% acetonitrile/10% water/0.1% TFA. 1H NMR (500 MHz, MeOD) δ ppm 7.52-7.64 (m, 1H), 4.95-5.10 (m, 1H), 3.57-3.70 (m, 1H), 3.47-3.57 (m, 1H), 2.37-2.55 (m, 1H), 1.94-2.10 (m, 3H), 1.46 (s, 4H), 1.27 (s, 5H).

reactant | Sodium sulfite | 82 mmol, 10.31 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | (S)-tert-butyl 2-(4,5-diiodo-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 8.2 mmol, 4.0 g | IC=1N=C(NC1I)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C12H17I2N3O2
solvent | ethanol | 75 mL | C(C)O | C2H6O
solvent | water | 75 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-tert-butyl 2-(5-iodo-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 2.17 g, 73.1% | IC1=CN=C(N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C12H18IN3O2
